US05545640
1-Amino-3(S)-(dibenzylamino)-4-phenyl-2(R)-butanol
A solution of 3(S)-(dibenzylamino)-2(R)-hydroxy-4-phenylbutanenitrile [50.82 g, 143 mmol] described by M. T. Reetz et al., Tetrahedron Lett., 29, 3295 (1988)] in anhydrous Et2O (250 mL) was added dropwise over a period of 2 h to a stirred, cooled (0°) mixture of LiAlH4 (8.10 g, 213 mmol) and anhydrous Et2O (500 mL). The mixture was allowed to warm to room temperature while being stirred for 4.5 h. The mixture was cooled again to 0°. EtOAc (100 mL) was added slowly over 15 min. Stirring was continued for 15 min at 0°. A cold (0°) solution of 2N NaOH (250 mL) was added dropwise to the reaction mixture giving a white suspension/emulsion. The cloudy organic supernatant was separated and the remainder of the suspension/emulsion was passed through a 45 μm filter. The filtrate was extracted with EtOAc and the extract was combined with the first organic phase. After drying over NaCl/Na2SO4, the solution was concentrated to a volume of ca 100 mL and allowed to stand at 5° for 18 h. The precipitated material was separated, triturated with hexane (300 mL), collected by filtration, and dried under reduced pressure to give the title compound as a white solid (34 g, 66% yield). Mp: 72°-76°. [α]D24 -1.9° (c=1, MeOH). [α]Hg36524 -24.0° (c=1, MeOH). 1H NMR (CDCl3, 400 MHz) δ 2.68 (dd, J=12.6, 7.6, 7.2 Hz, 1H), 2.81 (dd, J=12.6, 3.8, 3.5 Hz, 1H), 2.86-3.00 (m, 2H), 3.08 (dd, J=14.1, 7.6, 7.3 Hz, 1H), 3.59 (d, J=13.7 Hz, 2H), 3.69 (m, 1H), 3.71 (d, J=13.7 Hz, 2H), 7.16-7.35 (m, 15H). FAB-MS (m/z): 361 (M+H)+.

reactant | 3(S)-(dibenzylamino)-2(R)-hydroxy-4-phenylbutanenitrile | 143 mmol, 50.82 g | C(C1=CC=CC=C1)N([C@H]([C@H](C#N)O)CC1=CC=CC=C1)CC1=CC=CC=C1 | C24H24N2O
reactant | LiAlH4 | 213 mmol, 8.10 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
reactant | NaOH | 2N, 250 mL | [OH-].[Na+]
solvent | Et2O | 250 mL | CCOCC | C4H10O
solvent | Et2O | 500 mL | CCOCC | C4H10O
product | 1-Amino-3(S)-(dibenzylamino)-4-phenyl-2(R)-butanol | 34 g, 66% yield | NC[C@H]([C@H](CC1=CC=CC=C1)N(CC1=CC=CC=C1)CC1=CC=CC=C1)O | C24H28N2O
